US05589478
A solution of 5-(4-methylphenyl)-4,6-dichloropyrimidine in ether is cooled at -30° C., and thereto is added dropwise a 1.8M phenyl lithium/cyclohexane solution. The reaction mixture is treated in the same manner as in Reference Example 20-(1) to give 5-(4-methylphenyl)-4,6-dichloro-2-phenylpyrimidine as crystalline powder.

reactant | 5-(4-methylphenyl)-4,6-dichloropyrimidine | CC1=CC=C(C=C1)C=1C(=NC=NC1Cl)Cl | C11H8Cl2N2
reactant | phenyl lithium cyclohexane | 1.8M | C1(=CC=CC=C1)[Li].C1CCCCC1
solvent | ether | CCOCC | C4H10O
product | 5-(4-methylphenyl)-4,6-dichloro-2-phenylpyrimidine | CC1=CC=C(C=C1)C=1C(=NC(=NC1Cl)C1=CC=CC=C1)Cl | C17H12Cl2N2
